US07291744B2
Step b: Preparation of N-(2RS)-{[(1S,2R)-2-aminocyclohexyl]methyl}-6-fluoro-N-methyl-1,2,3,4-tetrahydronaphthalen-2-amine
A mixture of benzyl((1R,2S)-2-{[((2RS)-6-fluoro-1,2,3,4-tetrahydronaphthalen-2-yl)(methyl)amino]methyl}cyclohexyl)carbamate (280 mg, 0.66 mmol), methanol (20 mL) and 10% palladium on charcoal (56 mg) was shaken under a hydrogen atmosphere (55 psig) for 3.5 hours. The mixture was filtered, the solids were washed with methanol and the filtrate was concentrated under vacuum. The residue (110 mg, 57%) was used without further purification.

reactant | benzyl((1R,2S)-2-{[((2RS)-6-fluoro-1,2,3,4-tetrahydronaphthalen-2-yl)(methyl)amino]methyl}cyclohexyl)carbamate | 0.66 mmol, 280 mg | C(C1=CC=CC=C1)OC(N[C@H]1[C@@H](CCCC1)CN(C)C1CC2=CC=C(C=C2CC1)F)=O | C26H33FN2O2
catalyst | palladium on charcoal | 56 mg | [Pd] | Pd
solvent | methanol | 20 mL | CO | CH4O
product | N-(2RS)-{[(1S,2R)-2-aminocyclohexyl]methyl}-6-fluoro-N-methyl-1,2,3,4-tetrahydronaphthalen-2-amine | N[C@H]1[C@@H](CCCC1)CN(C1CC2=CC=C(C=C2CC1)F)C | C18H27FN2
